US05352654
A mixture consisting of 0.285 g of 3-mercaptopyridin-2-ylsulfonamide, 0.455 g of potassium carbonate, 5 ml of dry dimethylformamide and 0.23 g of 3-fluoro-1-bromopropane is stirred for 90 minutes at a temperature of +25° C. in a nitrogen atmosphere. The reaction mixture is subsequently added to an ice/water mixture. After a pH of 2 has been established with 2.8 ml of 2N HCl, the reaction mixture is extracted twice with ethyl acetate. The combined organic phases are washed three times with water and subsequently dried over sodium sulfate. Concentration and subsequent chromatographic purification of the residue over silica gel with ethyl acetate/n-hexane (1:1 ) give 0.12 g of 3-(3-fluoropropythio)pyridin-2-ylsulfonamide of a melting point of 85° to +86° C.

reactant | 3-mercaptopyridin-2-ylsulfonamide | 0.285 g | SC=1C(=NC=CC1)S(=O)(=O)N | C5H6N2O2S2
reactant | potassium carbonate | 0.455 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluoro-1-bromopropane | 0.23 g | FCCCBr | C3H6BrF
reactant | HCl | 2N, 2.8 ml | Cl | ClH
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(3-fluoropropythio)pyridin-2-ylsulfonamide | 0.12 g | FCCCSC=1C(=NC=CC1)S(=O)(=O)N | C8H11FN2O2S2
